US04886835
The procedure is as in Example 4, starting with ethyl 2-dimethylamino-6-(4-dimethylaminophenyl)-5-methylthio-6-oxo-2,4-hexadienoate (5.5 g), 12N aqueous hydrochloric acid solution (38 cc) and ethanol (50 cc). The mixture is heated to boiling for 5 minutes, and is then cooled to a temperature of approximately 20° C. After purification by chromatography on a silica column with a mixture of cyclohexane and ethyl acetate (60:40 by volume), ethyl 6-(4-dimethylaminophenyl)-2-hydroxy-5-methylthio-6-oxo-2,4-hexadienoate (3.9 g) is obtained in the form of a brown oil (Rf=0.2; support: silica gel; eluent: cyclohexane/ethyl acetate 60:40 by volume).

reactant | ethyl 2-dimethylamino-6-(4-dimethylaminophenyl)-5-methylthio-6-oxo-2,4-hexadienoate | 5.5 g | CN(C(C(=O)OCC)=CC=C(C(=O)C1=CC=C(C=C1)N(C)C)SC)C | C19H26N2O3S
reactant | hydrochloric acid | 12N, 38 cc | Cl | ClH
reactant | ethanol | 50 cc | C(C)O | C2H6O
product | ethyl 6-(4-dimethylaminophenyl)-2-hydroxy-5-methylthio-6-oxo-2,4-hexadienoate | 3.9 g | CN(C1=CC=C(C=C1)C(C(=CC=C(C(=O)OCC)O)SC)=O)C | C17H21NO4S
